US05206240
6,7-Dimethoxy-1'-[2-(4-nitrophenyl)ethyl]-2-(4-nitrobenzyl)-spiro[1,2,3,4-tetrahydroisoquinoline-1,4'-piperidine]-4-one
A mixture of 6,7-dimethoxy-1'-[2-(4nitrophenyl)ethyl]-spiro[1,2,3,4-tetrahydro-isoquinoline-1,4'-piperidin]-4-one hydrochloride (0.33 g) sodium bicarbonate (0.1 g) and p-nitrobenzylbromide (0.25 g) in ethanol were refluxed for 18 hours. The reaction was concentrated and chromotographed on silica (methylene chloride/methanol, 90:10) to give 60 mg upon concentration and crystallization of the dihydrochloride salt from isopropanol. mp 174°-177° C.

reactant | 6,7-dimethoxy-1'-[2-(4nitrophenyl)ethyl]-spiro[1,2,3,4-tetrahydro-isoquinoline-1,4'-piperidin]-4-one hydrochloride | 0.33 g | Cl.COC=1C=C2C(CNC3(CCN(CC3)CCC3=CC=C(C=C3)[N+](=O)[O-])C2=CC1OC)=O
reactant | p-nitrobenzylbromide | 0.25 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | ethanol | C(C)O | C2H6O
product | 6,7-Dimethoxy-1'-[2-(4-nitrophenyl)ethyl]-2-(4-nitrobenzyl)-spiro[1,2,3,4-tetrahydroisoquinoline-1,4'-piperidine]-4-one | COC=1C=C2C(CN(C3(CCN(CC3)CCC3=CC=C(C=C3)[N+](=O)[O-])C2=CC1OC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C30H32N4O7
